* 74HC75 ngspice behavioral model
* USP 2026-02-03
* Pinout: Q1n D1 D2 E34 VCC D3 D4 Q4n Q4 Q3 Q3n GND E12 Q2n Q2 Q1

.subckt 74HC75 Q1n D1 D2 E34 VCC D3 D4 Q4n Q4 Q3 Q3n GND E12 Q2n Q2 Q1 
* Logic: If E is High, Q = D.

* Timing model for 74HC logic (approx 15ns delay at 5V)
.model MyLatch d_latch(data_delay=15n clk_delay=15n)


* Units 1 & 2 (Controlled by E12)
A1 [D1] [E12] [NULL] [NULL] [NULL] [NULL] [Q1] [Q1n] MyLatch
A2 [D2] [E12] [NULL] [NULL] [NULL] [NULL] [Q2] [Q2n] MyLatch

* Units 3 & 4 (Controlled by E34)
A3 [D3] [E34] [NULL] [NULL] [NULL] [NULL] [Q3] [Q3n] MyLatch
A4 [D4] [E34] [NULL] [NULL] [NULL] [NULL] [Q4] [Q4n] MyLatch

.ends